* ============================================================
* IGZO TFT Behavioral Subcircuit — Vth shifted +0.5V
* Base: igzo_smooth.sub  |  Shift: Vth + 0.5V
*
* Fitted parameters (logistic + linear extension):
*   L     = 6.9526
*   K     = 5.0889
*   V0    = 0.6102 V   (original 0.1102 + 0.5)
*   B     = -13.1232
*   VSAT  = 1.787  V   (original 1.287 + 0.5)
*   SLOPE = 2.307e-7 A/V
*   R²    = 0.9907
*
* Ports: drain  gate  source
* Usage: XDEV drain gate source IGZO_SMOOTH_P0P5V
* ============================================================

.SUBCKT IGZO_SMOOTH_P0P5V drain gate source
+ PARAMS: L=6.9526 K=5.0889 V0=0.6102 B=-13.1232 VSAT=1.787 SLOPE=2.307e-7

RGATE  gate  source  1T

BIGZO drain source I={
+ (POW(10, B + L/(1+EXP(-K*(MIN(V(gate,source),VSAT)-V0)))) + MAX(0,V(gate,source)-VSAT)*SLOPE) -
+ (POW(10, B + L/(1+EXP(-K*(MIN(V(gate,drain), VSAT)-V0)))) + MAX(0,V(gate,drain) -VSAT)*SLOPE)
+ }

.ENDS IGZO_SMOOTH_P0P5V
