* ============================================================
* Xyce Test Netlist — IGZO TFT Exact 4-Region Model
* DC sweep: Vgs -3V to 5V, Vds = 0.5V
* ============================================================

.TITLE IGZO Exact Transfer Curve

.INCLUDE igzo_exact.sub

* Power supplies
VGS  gate  0  DC 0
VDS  drain 0  DC 0.5

* Device under test: drain gate source
XIGZO  drain  gate  0  IGZO_EXACT

* DC sweep Vgs from -3 to 5V in 0.06V steps
.DC VGS -3 5 0.06

* Output: Ids = current through VDS (sign convention: into drain)
.PRINT DC FORMAT=CSV  V(gate) I(VDS)

.END
