* 3T1C  VSN=Vth+V4+V5  V5=1.0V
.INCLUDE igzo_smooth_k5.sub
VV1  v1n  0  DC 0.0
VV2  v2n  0  DC 3.0
VV3  v3n  0  DC -3.0
VV4  v4n  0  DC 0.0
VV5  v5n  0  DC 1.0
BSN  sn  0  V={V(v4n) + 1.1102}
XM2  v1n  v2n  mid  IGZO_SMOOTH_K5
XM1  mid  v3n  sn   IGZO_SMOOTH_K5
XM0  mid  sn   v5n  IGZO_SMOOTH_K5
RMID    mid  0  10T
.DC VV4 -1 1 0.02
.PRINT DC FORMAT=CSV  V(v4n)  V(sn)  V(mid)  I(VV5)
.END
